US05047540
(129) Preparation of 2-(2-benzoyloxypropan-1-yl)-3-octadecylcarbamoyloxypropylamine m8
A suspension of 1.617 g (2.89 mM) of 1-azido-2-(2-benzoyloxypropan-1-yl)-3-octadecylcarbamoyloxypropane m7b and 170 mg of 10% palladium on charcoal in 150 ml of methanol is hydrogenated under hydrogen atmosphere for 1 hour. The mixture is filtered and the solvent of the filtrate is evaporated to obtained crude titled compound m8.

reactant | 1-azido-2-(2-benzoyloxypropan-1-yl)-3-octadecylcarbamoyloxypropane | 2.89 mM, 1.617 g | N(=[N+]=[N-])CC(COC(NCCCCCCCCCCCCCCCCCC)=O)CC(C)OC(C1=CC=CC=C1)=O | C32H54N4O4
catalyst | palladium on charcoal | 170 mg | [Pd] | Pd
solvent | methanol | 150 ml | CO | CH4O
product | 2-(2-benzoyloxypropan-1-yl)-3-octadecylcarbamoyloxypropylamine | C(C1=CC=CC=C1)(=O)OC(CC(CN)COC(NCCCCCCCCCCCCCCCCCC)=O)C | C32H56N2O4
